US08445509B2
Methyl 2-oxo-2H-pyran-3-carboxylate (3.0 g, 19 mmol) was dissolved in a mixed solvent of tetrahydrofuran (40 mL) and N,N-dimethylformamide (10 mL), and 2-(1-methylethyl)aniline (2.7 mL, 19 mmol) was added. After stirring overnight at room temperature, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (4.5 g, 23 mmol) and 4-(N,N-dimethylamino)pyridine (120 mg, 1.0 mmol) were added, and the mixture was further stirred overnight at room temperature. The reaction system was diluted with ethyl acetate and washed with saturated aqueous sodium hydrogen carbonate solution, and the organic layer was dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=40/60→60/40) to give methyl 1-[2-(1-methylethyl)phenyl]-2-oxo-1,2-dihydropyridine-3-carboxylate (800 mg). Methyl 1-[2-(1-methylethyl)phenyl]-2-oxo-1,2-dihydropyridine-3-carboxylate (800 mg) was dissolved in a mixed solvent of tetrahydrofuran (5 mL) and methanol (5 mL), 1N aqueous sodium hydroxide solution (5 mL) was added, and the mixture was stirred at room temperature for 2 hr. The mixture was diluted with distilled water (20 mL) and washed with ethyl acetate. The aqueous layer was acidified with 1N hydrochloric acid (7 mL) and extracted twice with ethyl acetate. The collected organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. A small amount of hexane/ethyl acetate was added to the residue, and the resulting precipitate was collected by filtration to give 1-[2-(1-methylethyl)phenyl]-2-oxo-1,2-dihydropyridine-3-carboxylic acid (760 mg, 15%) as a white solid.

reactant | Methyl 2-oxo-2H-pyran-3-carboxylate | 19 mmol, 3.0 g | O=C1OC=CC=C1C(=O)OC | C7H6O4
reactant | 2-(1-methylethyl)aniline | 19 mmol, 2.7 mL | CC(C)C1=C(N)C=CC=C1 | C9H13N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 23 mmol, 4.5 g | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | 4-(N,N-dimethylamino)pyridine | 1.0 mmol, 120 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 1-[2-(1-methylethyl)phenyl]-2-oxo-1,2-dihydropyridine-3-carboxylate | 800 mg | CC(C)C1=C(C=CC=C1)N1C(C(=CC=C1)C(=O)OC)=O | C16H17NO3
